US04265885
A solution of 1 g (3.7 mmoles) of methyl 2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranoside (II-A) in 10 ml of dry methylene dichloride was treated at -70° with 0.05 ml of boron trifluoride etherate. While maintaining the temperature at -70°, an excess of diazomethane dissolved in methylene dichloride was added until a faint yellow color persisted. After 60 minutes at -70°, a white solid (polymethylene) was removed by filtration, and the filtrate was washed successively with 10% sodium bicarbonate solution and with water, after which it was dried with anhydrous magnesium sulfate. The residue which was obtained by evaporation was chromatographed on a silica-gel column. Elution with a 95:5 chloroform:acetone mixture gave pure methyl 2,3,6-trideoxy-4-C-methyl-4-O-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranoside (II-B, 0.68 g, 65%) as a syrup; [α]D =-129° (c=1.1 in CHCl3); mass spectrum m/e 285 (M+). The pmr spectrum (CDCl3) showed absorptions at 1.22 (s, CH3 -C-4), 1.28 (d, CH3 -C-5), 3.33 and 3.48 (two s, --OCH3) and 4.77δ (broad s, C-1-H).

reactant | methyl 2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranoside | 3.7 mmoles, 1 g | C[C@@]1([C@H](C[C@H](OC)O[C@H]1C)NC(C(F)(F)F)=O)O | C10H16F3NO4
reactant | boron trifluoride etherate | 0.05 ml | B(F)(F)F.CCOCC
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl 2,3,6-trideoxy-4-C-methyl-4-O-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranoside | 0.68 g, 65% | C[C@@]1([C@H](C[C@H](OC)O[C@H]1C)NC(C(F)(F)F)=O)OC | C11H18F3NO4
